US04783462
4-Chloro-5-{3-[2-ethyl-4-(2-carboxyethenyl)phenoxy]propylamino}-2-ethyl-3(2H)pyridazinone (Compound No. 93)
A mixture comprising 1.34 g of 4-chloro-5-[3-(2-ethyl-4-formylphenoxy)propylamino]-2-ethyl-3(2H) pyridazinone (Compound No. 92), 0.73 g of malonic acid, one drop of piperidine and 12 ml of pyridine, were heated under stirring at 100° C. for 3 hours. After cooling, the reaction solution was acidified with hydrochloric acid, and extracted with ethyl acetate. The extract was washed twice with water, and dried over sodium sulfate. Then, the solvent was distilled off, and the residue thereby obtained was crystallized from ethyl acetate-ethyl ether to obtain 1.2 g of the above identified compound as pale yellow crystals having a melting point of from 145° to 147° C.

reactant | 4-chloro-5-[3-(2-ethyl-4-formylphenoxy)propylamino]-2-ethyl-3(2H) pyridazinone | 1.34 g | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C=O)CC)CC)=O | C18H22ClN3O3
reactant | malonic acid | 0.73 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | hydrochloric acid | Cl | ClH
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-5-{3-[2-ethyl-4-(2-carboxyethenyl)phenoxy]propylamino}-2-ethyl-3(2H)pyridazinone | ClC=1C(N(N=CC1NCCCOC1=C(C=C(C=C1)C=CC(=O)O)CC)CC)=O | C20H24ClN3O4
